US07470710B2
Description 39: (RS)-4-Bromo-2-piperidin-2-ylmethyl-1H-benzimidazole
The title compound was prepared using the method of Description 18 from 3-bromobenzene-1,2-diamine (0.50 g, 2.7 mmol) and 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (0.65 g, 2.7 mmol), as a pale brown amorphous solid (0.70 g, 88%)

reactant | 3-bromobenzene-1,2-diamine | 2.7 mmol, 0.50 g | BrC1=C(C(=CC=C1)N)N | C6H7BrN2
reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 2.7 mmol, 0.65 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
product | (RS)-4-Bromo-2-piperidin-2-ylmethyl-1H-benzimidazole | BrC1=CC=CC=2NC(=NC21)CC2NCCCC2 | C13H16BrN3
